US07560558B2
4-(Benzyloxy)-2-[(6,7-dimethoxy-4-quinolyl)oxy]benzaldehyde was dissolved in anhydrous tetrahydrofuran (1 ml). A 1 M tetrahydrofuran solution (0.5 ml) of ethylmagnesium bromide was added thereto at 0° C., and the mixture was stirred at 0° C. for one hr. Water (1 ml) was added dropwise to the reaction solution to stop the reaction. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure to give 1-{4-(benzyloxy)-2-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-1-propanol.

reactant | 4-(Benzyloxy)-2-[(6,7-dimethoxy-4-quinolyl)oxy]benzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C25H21NO5
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | Water | 1 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 M, 0.5 ml | O1CCCC1 | C4H8O
product | 1-{4-(benzyloxy)-2-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-1-propanol | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(CC)O)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C27H27NO5
